US08937150B2
1-(4-nitrophenyl)-4-phenylpiperidine
An oven-dried 20 mL microwave tube was charged with 4-fluoronitrobenzene (0.752 mL, 7.02 mmol), 4-phenylpiperidine (1.166 g, 7.02 mmol), and potassium carbonate (0.970 g, 7.02 mmol) under nitrogen, anhydrous DMSO (7 mL) was added, the tube was sealed with an aluminum crimp cap, and heated in a microwave reactor (Personal Chemistry, 300 W, 2.4 bar) at 190° C. for 10 minutes. TLC (SiO2, 5% EtOAc/hexanes) showed complete reaction. The reaction was poured into water (50 mL), stirred for 5 minutes, and vacuum filtered in a Büchner funnel. The collected yellow solids were washed with water (2×10 mL) and Et2O (5 mL), and the bright yellow solid was dried in vacuo to provide the title compound (1.712 g, 6.06 mmol, 86%). 1H NMR (400 MHz, CDCl3) δ ppm 1.73-1.90 (m, 2 H), 2.00 (d, J=13.34 Hz, 2 H), 2.73-2.86 (m, 1 H), 3.02-3.17 (m, 2 H), 4.10 (d, J=13.23 Hz, 2 H), 6.87 (d, J=9.43 Hz, 2 H), 7.23 (t, J=7.75 Hz, 3 H), 7.33 (t, J=7.43 Hz, 2 H), 8.14 (d, J=9.33 Hz, 2 H); MS (ESI+) m/z 283 (M+H)+.

reactant | 4-fluoronitrobenzene | 7.02 mmol, 0.752 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-phenylpiperidine | 7.02 mmol, 1.166 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium carbonate | 7.02 mmol, 0.970 g | C([O-])([O-])=O.[K+].[K+]
reactant | aluminum | [Al] | Al
solvent | water | 50 mL | O | H2O
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 1-(4-nitrophenyl)-4-phenylpiperidine | 6.06 mmol, 1.712 g, 86% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C17H18N2O2
